US06492562B1
F. (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxy-6-heptenoyl)]-2-benzoxazolone
Was prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with 4-pentenal. 13C-NMR (CDCl3, 100 MHz): δ 176.28, 151.07, 142.20, 137.96, 127.75, 125.50, 124.89, 116.26, 115.19, 109.89, 70.93, 43.76, 33.12, 30.16, 10.21.

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | 4-pentenal | C(CCC=C)=O | C5H8O
product | (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxy-6-heptenoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](CCC=C)O | C15H17NO4
